US05624950
A solution of 5.83 g of (3aRS,7aRS)-7,7-dimethyl-2-vinyloxycarbonyl-2,3,3a,4,7,7a-hexahydro-1H-4-isoindolone in 80 cm3 of hydrochloric acid-saturated dioxane is stirred at room temperature for 1 hour and then concentrated to dryness under reduced pressure (2.5 kPa). The residue is dissolved in 150 cm3 of ethanol and the solution is brought to reflux for 1 hour 30 minutes and is then concentrated to dryness under reduced pressure (2.5 kPa). 5.2 g of (3aRS,7aRS)7,7-dimethyl-2,3,3a,4,7,7a-hexahydro-1H-4-isoindolone hydrochloride are obtained in the form of a brown foam.

reactant | (3aRS,7aRS)-7,7-dimethyl-2-vinyloxycarbonyl-2,3,3a,4,7,7a-hexahydro-1H-4-isoindolone | 5.83 g | CC1(C=CC(C2CN(CC12)C(=O)OC=C)=O)C | C13H17NO3
reactant | hydrochloric acid | 80 cm3 | Cl | ClH
product | (3aRS,7aRS)7,7-dimethyl-2,3,3a,4,7,7a-hexahydro-1H-4-isoindolone hydrochloride | 5.2 g | Cl.CC1(C=CC(C2CNCC12)=O)C | InChI=1S/C10H15NO.ClH/c1-10(2)4-3-9(12)7-5-11-6-8(7)10;/h3-4,7-8,11H,5-6H2,1-2H3;1H
